US04480101
2-Amino-4-difluoromethylthio-6-methoxy-1,3,5-triazine
10.0 g of gaseous difluorochloromethane are introduced, during a period of 90 minutes at a temperature of 70° to 75° C., into a suspension of 5.0 g of 2-amino-4-mercapto-6-methoxy-1,3,5-triazine and 4.8 g of potassium carbonate in 100 ml of dimethylformamide. The reaction mixture is concentrated by evaporation, the residue is stirred up with water, and the solid precipitate is separated. The yield is 1.6 g of 2-amino-4-difluoromethylthio-6-methoxy-1,3,5-triazine, m.p. 146° to 150° C. (compound No. 1.14).

reactant | difluorochloromethane | 10.0 g | FC(Cl)F | CHClF2
reactant | 2-amino-4-mercapto-6-methoxy-1,3,5-triazine | 5.0 g | NC1=NC(=NC(=N1)S)OC | C4H6N4OS
reactant | potassium carbonate | 4.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-Amino-4-difluoromethylthio-6-methoxy-1,3,5-triazine | NC1=NC(=NC(=N1)SC(F)F)OC | C5H6F2N4OS
